US04868321
2-fluoro-5-nitrophenyl isothiocyanate;
1-(2-fluoro-5-nitrophenyl)-1,4-dihydro-5H-tetrazol-5-thione and its sodium salt;

reactant | 1-(2-fluoro-5-nitrophenyl)-1,4-dihydro-5H-tetrazol-5-thione | FC1=C(C=C(C=C1)[N+](=O)[O-])N1N=NNC1=S | C7H4FN5O2S
reactant | sodium | [Na] | Na
product | 2-fluoro-5-nitrophenyl isothiocyanate | FC1=C(C=C(C=C1)[N+](=O)[O-])N=C=S | C7H3FN2O2S
